US06894190B2
0.11 g (0.93 mmol) of (S)-α-methylbenzylamine and 0.26 g (1.23 mmol) of 4-benzyloxybenzaldehyde are mixed in 4 ml of t-butyl methyl ether and stirred for three days at room temperature, and then evaporated under reduced pressure to give a residue, which was then washed with 5 ml of n-hexane, filtered, and dried to give 0.24 g (0.77 mmol) of (S)-N-(4-benzyloxybenzylidene)-α-methylbenzylamine (Yield: 83%, purity 90%).

reactant | (S)-α-methylbenzylamine | 0.93 mmol, 0.11 g | C[C@@H](C1=CC=CC=C1)N | C8H11N
reactant | 4-benzyloxybenzaldehyde | 1.23 mmol, 0.26 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | t-butyl methyl ether | 4 ml | COC(C)(C)C | C5H12O
product | (S)-N-(4-benzyloxybenzylidene)-α-methylbenzylamine | 0.77 mmol, 0.24 g, Yield: 83% | C(C1=CC=CC=C1)OC1=CC=C(C=N[C@H](C2=CC=CC=C2)C)C=C1 | C22H21NO
